US06177449B1
b) N-[2,2-Dimethyl-6-hydroxychroman-4-yl]-N-methylmethanesulfonamide
7.3 g of N-[6-benzyloxy-2,2-dimethylchroman-4-yl]-N-methylmethanesulfonamide were dissolved in 100 ml of THF/methanol (1:1) and hydrogenated in a shaking duck using Pd/carbon. After absorpt ion of hydrogen was complete, the catalyst was filtered off with suction, the filtrate was concentrated and the residue was crystallized using dhsopropyl ether/petroleum ether, 5.2 g, m.p. 159-161° C.

reactant | N-[6-benzyloxy-2,2-dimethylchroman-4-yl]-N-methylmethanesulfonamide | 7.3 g | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)N(S(=O)(=O)C)C | C20H25NO4S
reactant | hydrogen | [H][H] | H2
solvent | THF methanol | 100 ml | C1CCOC1.CO
catalyst | Pd carbon | [Pd].[C]
product | N-[2,2-Dimethyl-6-hydroxychroman-4-yl]-N-methylmethanesulfonamide | CC1(OC2=CC=C(C=C2C(C1)N(S(=O)(=O)C)C)O)C | C13H19NO4S
